US08859566B2
Step 2: 8-(1-Benzyl-1H-pyrazol-4-yl)-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one
A mixture of 8-(1-Benzyl-1H-pyrazol-4-yl)-1-propyl-2-pyrrolidin-1-yl-1,7-dihydro-purin-6-one (0.83 g, 2.1 mmol) and potassium carbonate (0.857 g, 6.2 mmol) was taken in DMF (5 ml) and 2-(trimethylsilyl)ethoxymethyl chloride (1.0 ml, 6.2 mmol) was added drop wise at 0° C. and the mixture was stirred at 20° C. for 4 hours. The mixture was cooled to 10° C. and diluted with water (10 ml). The aqueous layer was extracted with ethyl acetate (3×15 ml). The organic layer was washed with saturated brine solution (2×15 ml) and dried over Na2SO4. Solvent was evaporated and the residue was further purified by column chromatography to obtain the above product as pale yellow semisolid (0.325 g, 30%)

reactant | 8-(1-Benzyl-1H-pyrazol-4-yl)-1-propyl-2-pyrrolidin-1-yl-1,7-dihydro-purin-6-one | 2.1 mmol, 0.83 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)N1CCCC1 | C22H25N7O
reactant | potassium carbonate | 6.2 mmol, 0.857 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 6.2 mmol, 1.0 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 8-(1-Benzyl-1H-pyrazol-4-yl)-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.325 g, 30% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)N1CCCC1 | C28H39N7O2Si
